US06797823B1
N′-(2-Chloro-4-{[6-methoxy-7(4-pyridyl-methoxy)-4quinazolinyl]oxy}phenyl)-N,N-dimethylurea
A starting compound (N′-{2-chloro-4-[(7-hydroxy-6-methoxy-4-quinazolinyl)oxy]phenyl}-N,N-dimethylurea, 50 mg), potassium carbonate (138 mg), and 4-chloromethylpyridine hydrochloride (49 mg) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at room temperature for 18 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was purified by HPLC by development with chloroform/methanol to give 37 mg (yield 60%) of the title compound.

reactant | N′-{2-chloro-4-[(7-hydroxy-6-methoxy-4-quinazolinyl)oxy]phenyl}-N,N-dimethylurea | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)O)NC(N(C)C)=O | C18H17ClN4O4
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloromethylpyridine hydrochloride | 49 mg | Cl.ClCC1=CC=NC=C1
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N′-(2-Chloro-4-{[6-methoxy-7(4-pyridyl-methoxy)-4quinazolinyl]oxy}phenyl)-N,N-dimethylurea | 37 mg, yield 60% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OCC1=CC=NC=C1)NC(N(C)C)=O | C24H22ClN5O4
